US04271156
The procedure of Example 6 is followed but triethylammonium 5-chloropyrid-2-yldithiocarbamate (91.5 g) and pent-1-en-3-one (28.0 g) in anhydrous chloroform (600 cc) are used as the starting materials at a maximum temperature of 5° C. The reaction is allowed to proceed for 2 hours at a maximum temperature of 5° C. The crude product (90.0 g) is dissolved in methylene chloride (400 cc). The solution is chromatographed on a column of diameter 6.5 cm, containing silica (0.063-0.2 mm; 750 g). Elution is carried out with methylene chloride (1,500 cc), this eluate being discarded, and then with methylene chloride (6 liters), this eluate being collected and evaporated to dryness. The product obtained (59.1 g) is purified by recrystallisation from a mixture of acetonitrile (60 cc) and diisopropyl ether (120 cc). 3-Oxopentyl 5-chloropyrid-2-yldithiocarbamate (49.0 g) (structure determined by IR spectroscopy in petroleum jelly), which melts at 80° C., is obtained.

reactant | triethylammonium 5-chloropyrid-2-yldithiocarbamate | 91.5 g | ClC=1C=CC(=NC1)NC([S-])=S.C(C)[NH+](CC)CC
reactant | pent-1-en-3-one | 28.0 g | C=CC(CC)=O | C5H8O
solvent | chloroform | 600 cc | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 400 cc | C(Cl)Cl | CH2Cl2
product | 3-Oxopentyl 5-chloropyrid-2-yldithiocarbamate | 49.0 g | ClC=1C=CC(=NC1)NC(SCCC(CC)=O)=S | C11H13ClN2OS2
